### ISSUE TITLE
prove ProbMethodCombinatorics.card_filter_le_exp_mul

### ISSUE THREAD

**Issue by yidiq7** [yidiq7/ProbMethodCombinatorics#21]
---
choir-task-version: 1
type: prove
target_file: ProbMethodCombinatorics/Chernoff.lean
target_decl: ProbMethodCombinatorics.card_filter_le_exp_mul
project_ref:
  repo: yidiq7/ProbMethodCombinatorics
  commit: cc4a09e0649db2c7fa4b253cbf02e02c68be2f7a
  toolchain: leanprover/lean4:v4.33.0
deps: []
blueprint_ref: chernoff_bound
---

**The Chernoff bound** — Zhao, Theorem 5.0.1 (`sources/mit18_226_f22_lec_full.pdf`, printed
p. 69 = PDF p. 75). For `S = X₁ + ⋯ + Xₙ` with the `Xᵢ` uniform iid `±1` and `λ > 0`,
`ℙ(S ≥ λ√n) ≤ exp(-λ²/2)`.

Chapter 5's engine: everything else in the group follows from it. Chebyshev would give only
`λ⁻²` here; the gain comes from using *all* the moments at once via the moment generating
function, at the cost of needing full independence rather than pairwise.

**Stated as a count.** A sign sequence is `x : Fin n → Bool` read through `toSign`, and the
bound counts the sequences in `Finset.univ` (of which there are `2 ^ n`) whose sum reaches
`λ√n`. See `roadmap/chernoff.md` for why this chapter is counting rather than measure: both
its applications end in existence claims about finite objects, and their proofs are
"Chernoff, then union bound".

**Route.** Fix `t ≥ 0` and bound the MGF:
`∑ₓ e^{tS(x)} = ((e^{-t} + e^{t})/2)ⁿ · 2ⁿ ≤ e^{t²n/2} · 2ⁿ`.
Then Markov — use `card_filter_le_sum_div` (task #14), which is exactly this project's
counting Markov — applied to `x ↦ e^{t·S(x)}` with threshold `e^{tλ√n}`, and finally
`t = λ/√n`.

The one genuinely analytic step is `(e^{-x} + e^{x})/2 ≤ e^{x²/2}`, which the book proves by
comparing `∑ x^{2k}/(2k)!` with `∑ x^{2k}/(k! 2^k)`. **Search Mathlib before proving this by
hand** — `Real.cosh`, `Real.cosh_eq`, and the `Real.add_pow_le_pow_mul_pow_of_sq_le_sq`
neighbourhood are worth checking; a `cosh x ≤ exp (x^2/2)` lemma may already exist.

The product step `∑ₓ ∏ᵢ e^{t·toSign(xᵢ)} = ∏ᵢ ∑_{b} e^{t·toSign b}` is
`Finset.prod_univ_sum` / `Finset.sum_prod_piFinset` — independence, in counting form, is
this distributivity and nothing more.

**Hard**, but the route is complete and standard. A reduction naming the MGF bound as its
own lemma would be a welcome return.

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: claim
protocol: 8
session: 1ca50342999ccc24
```

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: heartbeat
protocol: 8
session: 1ca50342999ccc24
```

_Lease refreshed 2026-09-13T02:29:59+00:00; this comment is edited in place._

**Comment by yidiq7** [comment]
## choir-defect — `card_filter_le_exp_mul` is false as stated (at `n = 0`)

This is the **"this statement is wrong"** case, not "this proof is hard": the rest of the
route works and I have a machine-checked proof of the `0 < n` case, included below. I have
not committed anything, and the workspace is byte-identical to `c943f93`.

### The counterexample

At `n = 0` the type `Fin 0 → Bool` has exactly one element, `Real.sqrt ((0 : ℕ) : ℝ) = 0` and
the empty sum is `0`, so the filter predicate reads `0 ≤ 0` and the filter keeps that one
element. So the left side is `1`, while the right side is
`Real.exp (-lam ^ 2 / 2) * 2 ^ 0 = Real.exp (-lam ^ 2 / 2) < 1`, because `hlam : 0 < lam`.

Verified in Lean at the pinned commit. Note this takes the `n = 0` instance as a *hypothesis*,
so it does not route through the declaration's own `sorry` — it shows the proposition itself is
contradictory:

```lean
import ProbMethodCombinatorics.Chernoff
open Finset ProbMethodCombinatorics

example {lam : ℝ} (hlam : 0 < lam)
    (h : (((univ : Finset (Fin 0 → Bool)).filter
            fun x => lam * Real.sqrt ((0 : ℕ) : ℝ) ≤ ∑ i, toSign (x i)).card : ℝ)
          ≤ Real.exp (-lam ^ 2 / 2) * 2 ^ (0 : ℕ)) : False := by
  have hcard : (((univ : Finset (Fin 0 → Bool)).filter
      fun x => lam * Real.sqrt ((0 : ℕ) : ℝ) ≤ ∑ i, toSign (x i)).card : ℝ) = 1 := by
    norm_num
  rw [hcard, pow_zero, mul_one] at h
  have hlt : Real.exp (-lam ^ 2 / 2) < 1 := by
    refine Real.exp_lt_one_iff.mpr ?_
    nlinarith
  linarith
```

The classical bound has the same degeneracy (`ℙ(S ≥ 0) = 1 > e^{-λ²/2}` when `S ≡ 0`), and the
book's Theorem 5.0.1 is implicitly for `n ≥ 1` — its proof optimizes `t = λ/√n`, undefined at
`n = 0`.

**The sibling `card_filter_abs_le_exp_mul` (#22) has the same defect**, also machine-checked:
at `n = 0, lam = 2` it forces `1 ≤ 2 * exp (-2) ≈ 0.271`. That one is true at `n = 0` only for
`lam ≤ √(2 log 2) ≈ 1.177`, so it needs the same repair. I have commented there too.

### Two repairs, both verified

1. **Add `(hn : 0 < n)`** — closest to the book. The proof below then goes through.
2. **Make the filter strict**, `fun x => lam * Real.sqrt n < ∑ i, toSign (x i)`. True for *every*
   `n` (at `n = 0` the filter is empty), and it follows from (1) by `Finset.card_le_card`. This
   keeps the statement unconditional in `n` and still serves the union-bound applications
   downstream. I verified this variant as well.

Either is fine by me; (1) is the more faithful statement, (2) saves the downstream sites from
carrying an `n ≠ 0` hypothesis.

### The proof, ready to drop in once the statement is fixed

Needs exactly one added import, `Mathlib.Analysis.SpecialFunctions.Trigonometric.Series`, for
`Real.cosh_le_exp_half_sq`. I confirmed by deletion that nothing else is missing — `Fintype.prod_sum`,
`Real.exp_sum`, `Real.exp_nat_mul`, `Real.sq_sqrt`, `Finset.sum_le_sum`,
`Finset.sum_le_sum_of_subset_of_nonneg` and `le_div_iff₀` are all reachable from the file's existing
four imports. `#print axioms` on it gives `[propext, Classical.choice, Quot.sound]`.

```lean
theorem card_filter_le_exp_mul (n : ℕ) (hn : 0 < n) {lam : ℝ} (hlam : 0 < lam) :
    (((univ : Finset (Fin n → Bool)).filter
        fun x => lam * Real.sqrt n ≤ ∑ i, toSign (x i)).card : ℝ)
      ≤ Real.exp (-lam ^ 2 / 2) * 2 ^ n := by
  have hn' : (0 : ℝ) < n := by exact_mod_cast hn
  have hs0 : 0 < Real.sqrt n := Real.sqrt_pos.mpr hn'
  have hsq : Real.sqrt n ^ 2 = (n : ℝ) := Real.sq_sqrt hn'.le
  set s : ℝ := Real.sqrt n with hsdef
  set t : ℝ := lam / s with htdef
  have ht0 : 0 < t := div_pos hlam hs0
  have hmgf : ∑ x : Fin n → Bool, Real.exp (t * ∑ i, toSign (x i))
      = (Real.exp t + Real.exp (-t)) ^ n := by
    have h : ∀ x : Fin n → Bool, Real.exp (t * ∑ i, toSign (x i))
        = ∏ i, Real.exp (t * toSign (x i)) := by
      intro x
      rw [Finset.mul_sum, Real.exp_sum]
    simp_rw [h]
    rw [← Fintype.prod_sum (fun (_ : Fin n) (b : Bool) => Real.exp (t * toSign b))]
    simp [toSign]
  have hbound : ∑ x : Fin n → Bool, Real.exp (t * ∑ i, toSign (x i))
      ≤ 2 ^ n * Real.exp ((n : ℝ) * t ^ 2 / 2) := by
    rw [hmgf]
    have h2 : Real.exp t + Real.exp (-t) = 2 * Real.cosh t := by
      rw [Real.cosh_eq]; ring
    rw [h2, mul_pow]
    have h3 : Real.cosh t ^ n ≤ Real.exp (t ^ 2 / 2) ^ n := by
      gcongr
      exact Real.cosh_le_exp_half_sq t
    have h4 : Real.exp (t ^ 2 / 2) ^ n = Real.exp ((n : ℝ) * t ^ 2 / 2) := by
      rw [← Real.exp_nat_mul]
      ring_nf
    calc (2 : ℝ) ^ n * Real.cosh t ^ n ≤ 2 ^ n * Real.exp (t ^ 2 / 2) ^ n := by gcongr
      _ = 2 ^ n * Real.exp ((n : ℝ) * t ^ 2 / 2) := by rw [h4]
  have hmark : ((((univ : Finset (Fin n → Bool)).filter
        fun x => lam * s ≤ ∑ i, toSign (x i)).card : ℝ)) * Real.exp (t * (lam * s))
      ≤ ∑ x : Fin n → Bool, Real.exp (t * ∑ i, toSign (x i)) := by
    calc ((((univ : Finset (Fin n → Bool)).filter
              fun x => lam * s ≤ ∑ i, toSign (x i)).card : ℝ)) * Real.exp (t * (lam * s))
        = ∑ _x ∈ (univ : Finset (Fin n → Bool)).filter
              fun x => lam * s ≤ ∑ i, toSign (x i), Real.exp (t * (lam * s)) := by
          rw [Finset.sum_const, nsmul_eq_mul]
      _ ≤ ∑ x ∈ (univ : Finset (Fin n → Bool)).filter
              fun x => lam * s ≤ ∑ i, toSign (x i), Real.exp (t * ∑ i, toSign (x i)) := by
          refine Finset.sum_le_sum ?_
          intro x hx
          have hx' : lam * s ≤ ∑ i, toSign (x i) := (Finset.mem_filter.mp hx).2
          exact Real.exp_le_exp.mpr (by nlinarith)
      _ ≤ ∑ x : Fin n → Bool, Real.exp (t * ∑ i, toSign (x i)) := by
          refine Finset.sum_le_sum_of_subset_of_nonneg (Finset.filter_subset _ _) ?_
          intro x _ _
          positivity
  have e2 : t * (lam * s) = lam ^ 2 := by
    rw [htdef]
    field_simp
  have e3 : (n : ℝ) * t ^ 2 / 2 = lam ^ 2 / 2 := by
    rw [htdef, ← hsq]
    field_simp
  rw [e2] at hmark
  rw [e3] at hbound
  have hcomb := hmark.trans hbound
  rw [← le_div_iff₀ (Real.exp_pos _)] at hcomb
  refine hcomb.trans_eq ?_
  rw [mul_comm (Real.exp (-lam ^ 2 / 2)) ((2 : ℝ) ^ n), mul_div_assoc, ← Real.exp_sub]
  ring_nf
```

Route: set `s = √n`, `t = lam/s`. `Real.exp_sum` with `Finset.mul_sum` turns `exp (t·S x)` into
`∏ i, exp (t · toSign (x i))`, and `Fintype.prod_sum` — the counting form of independence,
`∏ i, ∑ b, f i b = ∑ x, ∏ i, f i (x i)` — gives the MGF as `(exp t + exp (-t))^n`, with
`simp [toSign]` discharging the two-point sum. Then `Real.cosh_eq` and `Real.cosh_le_exp_half_sq`
bound it by `2^n * exp (n t²/2)`; Markov is inlined (`Finset.sum_const`, `Finset.sum_le_sum`,
`Finset.sum_le_sum_of_subset_of_nonneg`), and `le_div_iff₀` with `Real.exp_sub` and `Real.sq_sqrt`
collapses the exponent to `lam²/2 - lam² = -lam²/2`.

Two notes for whoever lands it. `rw [← Fintype.prod_sum]` fails on its own ("did not find an
occurrence of the pattern") because higher-order unification cannot guess the `i`-independent `f`;
passing it explicitly, as above, works. And Markov is inlined deliberately rather than routed
through `card_filter_le_sum_div` — that one is still `sorry` at this pinned commit, so using it
would put `sorryAx` in the axiom set, and importing `Alterations` into `Chernoff` would add a
cross-chapter dependency.

I am releasing the claim so the task is not held while you adjudicate.

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: release
protocol: 8
```

**Comment by yidiq7** [comment]
**Re-pinned to `f1497a65` (current `main`).** Eight proofs have merged since this task was published, and its old pin predated them.

If you are already working at the old pin, **rebase your branch onto `origin/main` before submitting** — otherwise your PR restores the placeholders those merges removed, and `sorry-delta` will reject it for reverting proved theorems it never touched (this happened on #42). Nothing else about the task changes.

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: claim
protocol: 8
session: b9932738745efba8
```

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: heartbeat
protocol: 8
session: b9932738745efba8
```

_Lease refreshed 2026-09-13T03:00:13+00:00; this comment is edited in place._

**Comment by yidiq7** [comment]
Note for whoever now holds this: the task has been re-pinned from `c943f93` to `f1497a6`, but the
statement of `card_filter_le_exp_mul` is **byte-identical** at the new commit — still `n : ℕ`
unrestricted, still `≤`. So the defect above stands unchanged and the `n = 0` counterexample
applies verbatim; the new commit only adds helpers such as `toSign_not` alongside it.

The target is not provable as written. The working proof of the `0 < n` case is in my comment
above and should drop straight in once the statement gains `(hn : 0 < n)` or the filter is made
strict — it needs one added import,
`Mathlib.Analysis.SpecialFunctions.Trigonometric.Series`, for `Real.cosh_le_exp_half_sq`.

Flagging rather than halting anything — the adjudication is the orchestrator's.

**Comment by yidiq7** [comment]
**choir-defect** — "this statement is wrong", not "this proof is hard".

`card_filter_le_exp_mul` as stated is **false at `n = 0`**, for every `lam > 0`. I stopped
before attempting the main argument rather than working around it.

### The arithmetic

`Fin 0 → Bool` is a one-element type, `∑ i : Fin 0, toSign (x i) = 0`, and
`Real.sqrt ((0 : ℕ) : ℝ) = 0`. So the filter predicate is `lam * 0 ≤ 0`, i.e. `0 ≤ 0` —
true. The filter is therefore all of `univ`, of card `1`. The right-hand side is
`exp (-lam ^ 2 / 2) * 2 ^ 0 = exp (-lam ^ 2 / 2) < 1` whenever `lam > 0`. The claim reduces
to `1 ≤ exp (-lam ^ 2 / 2)`, which fails.

This is not a Lean artifact. Informal Theorem 5.0.1 degenerates identically:
`ℙ(S ≥ λ√n)` at `n = 0` is `ℙ(0 ≥ 0) = 1 > e^{-λ²/2}`. The book's statement carries `n ≥ 1`
implicitly.

### Machine-checked refutation

Both of these compile against the pinned toolchain, and `#print axioms` reports
`[propext, Classical.choice, Quot.sound]` for each — **no `sorryAx`**, so neither leans on
the unproved target:

```lean
theorem target_false_at_zero :
    ¬ ((((univ : Finset (Fin 0 → Bool)).filter
        fun x => (1 : ℝ) * Real.sqrt ((0 : ℕ) : ℝ) ≤ ∑ i, toSign (x i)).card : ℝ)
      ≤ Real.exp (-(1 : ℝ) ^ 2 / 2) * 2 ^ (0 : ℕ)) := by
  norm_num
```

### Second, downstream: `card_filter_abs_le_exp_mul` (#22) inherits the defect

The two-sided corollary is already proved in the file, but only because it calls the false
lemma. Its own statement is likewise false at `n = 0`, for `lam` large enough that
`2 * exp (-lam ^ 2 / 2) < 1` (roughly `lam > 1.18`) — verified the same way, also with no
`sorryAx`:

```lean
theorem corollary_false_at_zero :
    ¬ ((((univ : Finset (Fin 0 → Bool)).filter
        fun x => (3 : ℝ) * Real.sqrt ((0 : ℕ) : ℝ) ≤ |∑ i, toSign (x i)|).card : ℝ)
      ≤ 2 * Real.exp (-(3 : ℝ) ^ 2 / 2) * 2 ^ (0 : ℕ)) := by ...
```

So **both statements need the hypothesis**, not just this one. Adding `(hn : 0 < n)` to
`card_filter_le_exp_mul` alone will break `card_filter_abs_le_exp_mul` at
`ProbMethodCombinatorics/Chernoff.lean:72`, which applies it with no `n` hypothesis in
scope. The rest of that corollary's proof (the `x ↦ !x` involution) goes through unchanged
once `hn` is threaded.

### Suggested repair

Add `(hn : 0 < n)` to both statements. Independent evidence that this is the intended
hypothesis rather than a patch: the route's final step sets `t = lam / Real.sqrt n`, which
is well-defined precisely because `0 < n` makes `Real.sqrt n ≠ 0`.

### Note for whoever picks this up after the repair

The one genuinely analytic step is already in Mathlib on this pin, so the task is easier
than TASK.md assumes: `Real.cosh_le_exp_half_sq (x : ℝ) : cosh x ≤ exp (x ^ 2 / 2)`, in
`Mathlib/Analysis/SpecialFunctions/Trigonometric/Series.lean`, proved by exactly the book's
termwise comparison. It needs `import Mathlib.Analysis.SpecialFunctions.Trigonometric.Series`,
which `Chernoff.lean` does not currently have. Combine with `Real.cosh_eq`.

Also: `card_filter_le_sum_div` (the counting Markov the route calls for) is proved at
`ProbMethodCombinatorics/Alterations.lean:25`, but `Chernoff.lean` does not import
`Alterations`. Adding that import is cycle-free — nothing imports `Chernoff`, and
`Alterations` does not import it.

No changes were made to the workspace; the claim is being released so the task is free once
the statement is settled.

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: release
protocol: 8
```

**Comment by yidiq7** [comment]
**The statement was wrong, and that is almost certainly why this task kept getting released.**

`card_filter_le_exp_mul` was false at `n = 0`: the empty sum is `0` and the threshold `λ √0` is `0`, so the single sign sequence satisfies the condition — card 1 — while the bound `exp(-λ²/2) · 2⁰` is strictly less than 1. No proof existed. I built a machine-checked counterexample before touching anything.

**The statement now carries `0 < n`** and this task is re-pinned to `0c0d9832`. The hypothesis is needed by the intended proof anyway, which optimises at `t = λ / √n`.

One more thing that should save time: **`Real.cosh_le_exp_half_sq (x : ℝ) : Real.cosh x ≤ Real.exp (x ^ 2 / 2)` already exists in Mathlib** (`Mathlib/Analysis/SpecialFunctions/Trigonometric/Series.lean`). That is the one genuinely analytic step in the proof, so you do not need to prove it. With it, the route is:

1. `∑ₓ exp (t * S x) = (2 * Real.cosh t) ^ n` — the product/sum exchange, `Finset.prod_univ_sum` or `Fintype.sum_prod_piFinset`;
2. `(2 * cosh t) ^ n ≤ 2 ^ n * exp (t ^ 2 * n / 2)` by `cosh_le_exp_half_sq`;
3. Markov via `card_filter_le_sum_div` (proved, in `Alterations.lean`) applied to `x ↦ exp (t * S x)` at threshold `exp (t * λ * √n)`;
4. `t = λ / √n`, which needs `0 < n`.

Sorry for the wasted attempts — the defect was mine.

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: claim
protocol: 8
session: 235be07850243a53
```

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: heartbeat
protocol: 8
session: 235be07850243a53
```

_Lease refreshed 2026-09-13T06:14:59+00:00; this comment is edited in place._

**Comment by yidiq7** [comment]
Submitted in https://github.com/yidiq7/ProbMethodCombinatorics/pull/61.
